US08034812B2
Production of 3-(1-cyanoethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]benzamide
Using 3-(1-cyanoethyl)benzoic acid (62 mg, 0.35 mmol), oxalyl chloride (38 μL, 0.44 mmol), N,N-dimethylformamide (1 drop), tetrahydrofuran (3.0 mL), N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (100 mg, 0.30 mmol) and N-methylpyrrolidone (2.0 mL) as starting materials and in the same manner as in Example 335, the title compound (84 mg, 58%) was obtained as a white powder.

reactant | 3-(1-cyanoethyl)benzoic acid | 0.35 mmol, 62 mg | C(#N)C(C)C=1C=C(C(=O)O)C=CC1 | C10H9NO2
reactant | oxalyl chloride | 0.44 mmol, 38 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.30 mmol, 100 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)OC | C17H17N5O3
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(1-cyanoethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]benzamide | 84 mg, 58% | C(#N)C(C)C=1C=C(C(=O)NC2=CC(=C(C=C2)OC)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C27H24N6O4
